US09428508B2
To a solution of nitric acid (20.0 mL) and acetic acid (40.0 mL) under 10° C. was added 3,4,5-trimethoxybenzoic acid (10.0 g, 47.0 mmol) in portions. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was then poured into ice-water. The resulting precipitate was collected by filtration and washed with water, which was then recrystallized from ethanol to afford the product 1,2,3-trimethoxy-5-nitrobenzene (6.64 g, yield 66.1%). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.51 (s, 2H), 3.87 (s, 6H), 3.77 (s, 3H).

reactant | nitric acid | 20.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | 3,4,5-trimethoxybenzoic acid | 47.0 mmol, 10.0 g | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
solvent | acetic acid | 40.0 mL | C(C)(=O)O | C2H4O2
product | 1,2,3-trimethoxy-5-nitrobenzene | 6.64 g, yield 66.1% | COC1=C(C(=CC(=C1)[N+](=O)[O-])OC)OC | C9H11NO5
